US06331553B1
Synthesis of 2-(3-(t-butoxycarbonylaminomethyl)phenylamino)-5-methylthiazole
To a mixture of propionaldehyde (72 μl), chloroform (1 ml) and 1,4-dioxane (1 ml), bromine (52 μl) was added. The reaction mixture was stirred at room temperature for 30 min and then N-(3-(t-butoxycarbonylaminomethyl)phenyl)thiourea (262 mg), acetone (2 ml) and triethylamine (0.14 ml) were added. The reaction mixture was heated under reflux for 3.5 h and concentrated under reduced pressure. To the resulting residue, water was added and the resulting mixture was subjected to extraction with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, dried with anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by basic silica gel column chromatography (eluent, methylene chloride:methanol=99:1) to give 79.2 mg of the titled compound (yield, 27%).

reactant | propionaldehyde | 72 μl | C(CC)=O | C3H6O
reactant | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
reactant | bromine | 52 μl | BrBr | Br2
reactant | N-(3-(t-butoxycarbonylaminomethyl)phenyl)thiourea | 262 mg | C(C)(C)(C)OC(=O)NCC=1C=C(C=CC1)NC(=S)N | C13H19N3O2S
solvent | triethylamine | 0.14 ml | C(C)N(CC)CC | C6H15N
solvent | acetone | 2 ml | CC(=O)C | C3H6O
solvent | 1,4-dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | 2-(3-(t-butoxycarbonylaminomethyl)phenylamino)-5-methylthiazole | 79.2 mg, 27% | C(C)(C)(C)OC(=O)NCC=1C=C(C=CC1)NC=1SC(=CN1)C | C16H21N3O2S
